US05489593
1-[Benzyloxycarbonyl]-4-[3-amino-2-pyridinyl]piperazine
1-[Benzyloxycarbonyl]-4-[3-nitro-2-pyridinyl]piperazine (PREPARATION 99), is dissolved in dioxane (923ml) and cooled to 0°. Then aqueous titanium trichloride (20%, 555.3 ml) is added cautiously. After stirring 30 min the reaction is diluted with aqueous sodium hydroxide solution (2N, 1.5 l) and filtered through celite. The filter cake is washed with methanol/chloroform (10/90). The combined organic layers are washed with water, saline, dried and concentrated in vacuo to afford the desired product, NMR (300 MHz, CDCl3) 7.80, 7.38-7.32, 6.99, 6.88, 5.17, 3.67 and 3.12 δ.

reactant | 1-[Benzyloxycarbonyl]-4-[3-nitro-2-pyridinyl]piperazine | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=NC=CC=C1[N+](=O)[O-] | C17H18N4O4
solvent | dioxane | 923ml | O1CCOCC1 | C4H8O2
solvent | sodium hydroxide | 2N, 1.5 l | [OH-].[Na+]
catalyst | titanium trichloride | 555.3 ml | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 1-[Benzyloxycarbonyl]-4-[3-amino-2-pyridinyl]piperazine | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=NC=CC=C1N | C17H20N4O2
